US09145413B2
a. (S)-1,2-Dimethyl-pyrrolidine-2-carboxylic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide (Intermediate 47a)
To a suspension of (S)-1,2-dimethyl-pyrrolidine-2-carboxylic acid (660 mg, 4.61 mmol), (5-fluoro-pyridin-2-yl)-hydrazine (488 mg, 3.84 mmol) and Et3N (1.1 mL, 7.7 mmol) in DCM (20 mL) were added HOBt.H2O (51 mg, 0.38 mmol) and EDCI.HCl (884 mg, 4.61 mmol) and the mixture stirred at RT overnight. The mixture was partitioned between EtOAc/water and extracted with EtOAc. The combined organics were dried (Na2SO4), filtered and concentrated in vacuo. FCC, using 0-10% MeOH in DCM, gave the title compound as a brown solid (668 mg, 69%). LCMS (Method 4): Rt 0.40, m/z 253 [MH+].

reactant | (S)-1,2-dimethyl-pyrrolidine-2-carboxylic acid | 4.61 mmol, 660 mg | CN1[C@@](CCC1)(C(=O)O)C | C7H13NO2
reactant | (5-fluoro-pyridin-2-yl)-hydrazine | 3.84 mmol, 488 mg | FC=1C=CC(=NC1)NN | C5H6FN3
reactant | Et3N | 7.7 mmol, 1.1 mL | CCN(CC)CC | C6H15N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.38 mmol, 51 mg | O | H2O
reactant | EDCI.HCl | 4.61 mmol, 884 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-1,2-Dimethyl-pyrrolidine-2-carboxylic acid N′-(5-fluoro-pyridin-2-yl)-hydrazide | 668 mg, 69% | FC=1C=CC(=NC1)NNC(=O)[C@]1(N(CCC1)C)C | C12H17FN4O
